US06069156
To a solution of methyl 2-(1-bromopropyl)-3-isobutyrylindole-6-carboxylate (179 mg) in 1,2-dichloroethane (8 ml) was added N,N-diisopropylethylamine (0.24 ml) and refluxed for 40 minutes. The resulting mixture was evaporated in vacuo, then the residue was diluted with ethyl acetate and washed with diluted hydrochloric acid, water and brine. The organic phase was dried over sodium sulfate and evaporated in vacuo. Trituration with diethyl ether gave methyl 3-isobutyryl-2-(1-propenyl)indole-6-carboxylate (55.2 mg).

reactant | methyl 2-(1-bromopropyl)-3-isobutyrylindole-6-carboxylate | 179 mg | BrC(CC)C=1NC2=CC(=CC=C2C1C(C(C)C)=O)C(=O)OC | C17H20BrNO3
reactant | N,N-diisopropylethylamine | 0.24 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,2-dichloroethane | 8 ml | ClCCCl | C2H4Cl2
product | methyl 3-isobutyryl-2-(1-propenyl)indole-6-carboxylate | 55.2 mg | C(C(C)C)(=O)C1=C(NC2=CC(=CC=C12)C(=O)OC)C=CC | C17H19NO3
